US09290468B2
Step 1: 1-benzyloxy-2,3,4-trifluorobenzene
Sodium carbonate (19.50 g, 183.96 mmol) was dispersed into a solution of 2,3,4-trifluorophenol (13.64 g, 92.10 mmol) in acetone (300 mL). To the stirred suspension was added benzyl bromide (17.31 g, 101.21 mmol) dropwisely. The mixture was heated under reflux at 50° C. for 24 h. The acetone was removed under reduced pressure and the residue was dissolved in water (300 mL). The solution was extracted with ethyl acetate (100 mL×2). The combined organic extracts were washed with 5% sodium hydroxide (100 mL) and brine (100 mL) sequentially and dried over Na2SO4. The solvent was removed in vacuo to yield a pale yellow solid (19.89 g, 90.7% yield). 1H NMR (400 MHz, CDCl3): δ 7.40 (m, 5H), 6.85 (m, 1H), 6.64 (m, 1H), 5.15 (s, 2H).

reactant | Sodium carbonate | 183.96 mmol, 19.50 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,3,4-trifluorophenol | 92.10 mmol, 13.64 g | FC1=C(C=CC(=C1F)F)O | C6H3F3O
reactant | benzyl bromide | 101.21 mmol, 17.31 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 1-benzyloxy-2,3,4-trifluorobenzene | 19.89 g, 90.7% yield | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)F)F)F | C13H9F3O
